US09029560B2
Preparation of (E)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acryloyl azide (C23)
To (E)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acrylic acid (C22) (1.72 g, 4.59 mmol) in isopropanol (15.3 mL) was diphenyl phosphorazidate (1.3 mL, 6.03 mmol) and triethylamine (0.96 mL, 6.89 mmol) and stirred at room temperature for 6 hours. The white precipitate for filtered, rinsed with isopropanol, and dried to afford the title compound as a white solid (1.46 g, 78%): mp 106° C. (dec); 1H NMR (400 MHz, CDCl3) δ 8.59 (s, 1H), 8.24 (d, J=8.4 Hz, 2H), 7.86-7.73 (m, 3H), 7.66 (d, J=8.3 Hz, 2H), 7.40 (d, J=8.3 Hz, 2H), 6.52 (t, J=14.6 Hz, 1H); 19F NMR (376 MHz, CDCl3) δ −58.02; ESIMS m/z 401 ([M+H]+).

reactant | (E)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acrylic acid | 4.59 mmol, 1.72 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)/C=C/C(=O)O)(F)F | C18H12F3N3O3
reactant | diphenyl phosphorazidate | 6.03 mmol, 1.3 mL | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)(=O)N=[N+]=[N-] | C12H10N3O3P
reactant | triethylamine | 6.89 mmol, 0.96 mL | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 15.3 mL | C(C)(C)O | C3H8O
product | (E)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acryloyl azide | 1.46 g, 78% | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)/C=C/C(=O)N=[N+]=[N-])(F)F | C18H11F3N6O2
